US06603008B1
1-[4-Nitro-3-(trifluoromethyl)phenyl]-1-ethanone (Step 1)
A mixture of 4-bromo-1-nitro-2-(trifluoromethyl)benzene (1.87 g, 6.93 mmol), tributyl(1-ethoxyvinyl)tin (3.00 g, 8.31 mmol), Pd(PPh3)4 (801 mg, 0.693 mmol), and LiCl (734 mg, 17.3 mmol) in 1,4-dioxane (50 ml) was heated to reflux for 7 hours. The mixture was filtered through a pad of Celite with ethyl acetate. The filtrate was washed with water (100 ml) and brine (100 ml), dried over MgSO4, and evaporated in vacuo. To the obtained residue were added 2N HCl (20 ml) and THF (60 ml). The mixture was stirred at room temperature for 1.5 hours. Saturated aqueous NaHCO3 (60 ml) was added and the aqueous layer was extracted with ethyl acetate (100 ml×2). The combined organic layer was dried over MgSO4, and evaporated in vacuo. The resulting residue was chromatographed over silica gel with hexane/ethyl acetate (3:1) to give 1.51 g (94%) of the title compound as a white solid.

reactant | 4-bromo-1-nitro-2-(trifluoromethyl)benzene | 6.93 mmol, 1.87 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3BrF3NO2
reactant | tributyl(1-ethoxyvinyl)tin | 8.31 mmol, 3.00 g | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | LiCl | 17.3 mmol, 734 mg | [Li+].[Cl-]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.693 mmol, 801 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-Nitro-3-(trifluoromethyl)phenyl]-1-ethanone | 1.51 g, 94% | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)=O)C(F)(F)F | C9H6F3NO3
